US04762949
(B) 2-(n-octyl)cyclopropanecarbonyl chloride (II)
2 grams of anhydrous CuSO4 was suspended in 9 grams of 1-decene in a 2-neck round bottom flask. To one of the necks was fitted a water cooled condenser; to the other an addition funnel filled with a solution of 7.5 g. or ethyl diazoacetate dissolved in 10 grams of 1-decene. The CuSO4 suspension was heated at 100° C. The dropwise addition of 1-decene solution of ethyldiazoacetate into the suspension was accompanied with nitrogen evolution. The reaction mixture was heated after the completion of addition until nitrogen evolution stopped. After filtering CuSO4, the entire bulk of the reaction products was chromatographed quickly on silica gel, eluting with 1:1 mixture of low boiling petroleum ether and CHCl3. The first fraction was the unreacted 1-decene, followed by 5.5 grams of a mixture of cis and trans ethyl 2-(n-octyl)cyclopropanecarboxylate. 4.0 grams of this mixture was hydrolyzed by refluxing with 2.4 g. of NaOH in 30 ml. of H2O for 10 hours. The hydrolysate was washed with ether to remove unreacted esters, then acidified to pH 1 with HCl, followed by extraction with ether. The concentrated ether extracts gave 2.2 g. of 2-(n-octyl)cyclopropanecarboxylic acid. The entire bulk of this acid was treated with excess amount of SOCl2 at room temperature for 10 hours. Evaporation of excess SOCl2 gave quantitative yield of products.

reactant | ethyl diazoacetate | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
reactant | ethyldiazoacetate | C(C)OC(C=[N+]=[N-])=O | C4H6N2O2
reactant | 2-(n-octyl)cyclopropanecarboxylic acid | C(CCCCCCC)C1C(C1)C(=O)O | C12H22O2
reactant | SOCl2 | O=S(Cl)Cl | Cl2OS
solvent | 1-decene | 9 grams | C=CCCCCCCCC | C10H20
solvent | 1-decene | 10 grams | C=CCCCCCCCC | C10H20
catalyst | CuSO4 | 2 grams | [O-]S(=O)(=O)[O-].[Cu+2]
product | 2-(n-octyl)cyclopropanecarbonyl chloride | quantitative yield | C(CCCCCCC)C1C(C1)C(=O)Cl | C12H21ClO
